US06525049B2
A solution of diethyl 2-({4-[(acetyloxy)methyl]-2-iodoanilino}methylene)malonate (1.75 g) in Ph2O (20 mL) is heated at 250° C. for 40 min. The reaction is cooled to room temperature and diluted with hexanes. The resulting solid is collected and dried. The crude solid is adsorbed onto silica and chromatographed (Biotage flash 40S, gradient from CH2CI2 to 2% MeOH/CH2Cl2). Product containing fractions are combined and concentrated to yield 0.98 g (62%) of ethyl 6-[(acetyloxy)methyl]-4-hydroxy-8-iodo-3-quinolinecarboxylate, m.p. 119-123° C.

reactant | diethyl 2-({4-[(acetyloxy)methyl]-2-iodoanilino}methylene)malonate | 1.75 g | C(C)(=O)OCC1=CC(=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1)I | C17H20INO6
solvent | Ph2O | 20 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
product | ethyl 6-[(acetyloxy)methyl]-4-hydroxy-8-iodo-3-quinolinecarboxylate | 0.98 g, 62% | C(C)(=O)OCC=1C=C2C(=C(C=NC2=C(C1)I)C(=O)OCC)O | C15H14INO5
